US09085555B2
3-(3-Chloro-2-fluoro-phenyl)-oxetan-3-ylamine hydrochloride
A solution of 2-methyl-propane-2-sulfinic acid [3-(3-chloro-2-fluoro-phenyl)-oxetan-3-yl]-amide (940 mg, 2.46 mmol) and hydrochloric acid (4 N in dioxane, 0.922 ml, 3.69 mmol) in MeOH (5 mL) was stirred 30 min at 0° C. and concentrated. The material thus obtained was used without further purification in the next step. MS (UPLC-MS): 202/204 [M+H]+; tR (HPLC conditions f): 0.86 min.

reactant | 2-methyl-propane-2-sulfinic acid [3-(3-chloro-2-fluoro-phenyl)-oxetan-3-yl]-amide | 2.46 mmol, 940 mg | ClC=1C(=C(C=CC1)C1(COC1)NS(=O)C(C)(C)C)F | C13H17ClFNO2S
reactant | hydrochloric acid | 3.69 mmol, 4 N, 0.922 ml | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(3-Chloro-2-fluoro-phenyl)-oxetan-3-ylamine hydrochloride | Cl.ClC=1C(=C(C=CC1)C1(COC1)N)F | InChI=1S/C9H9ClFNO.ClH/c10-7-3-1-2-6(8(7)11)9(12)4-13-5-9;/h1-3H,4-5,12H2;1H
